US04929741
A solution of 5.7 g (23 mmol) of 4-(1-ethoxyethoxy)-1-(4-methylphenyl)-2-butyn-1-one in 80 ml of tetrahydrofuran was treated at room temperature with 23 ml of 2N hydrochloric acid, whereupon the mixture was stirred for 30 minutes. The reaction mixture was then extracted twice with ethyl acetate. The combined organic phases were washed in succession with saturated sodium carbonate solution and with water, dried over magnesium sulphate and concentrated. Crystallization of the residue from ethyl acetate/hexane yielded 4-hydroxy-1-(4-methylphenyl)-2-butyn-1-one of melting point 74°.

reactant | 4-(1-ethoxyethoxy)-1-(4-methylphenyl)-2-butyn-1-one | 23 mmol, 5.7 g | C(C)OC(C)OCC#CC(=O)C1=CC=C(C=C1)C | C15H18O3
reactant | hydrochloric acid | 2N, 23 ml | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-1-(4-methylphenyl)-2-butyn-1-one | OCC#CC(=O)C1=CC=C(C=C1)C | C11H10O2
